US08378108B2
A solution of methyl 6-aminopicolinate (10.65 g, 70 mmol, 1 eq) and sodium bicarbonate (13 g, 154 mmol, 2.2 eq) was dissolved in a mixture of acetone/water (2:1, 1M), and the solution cooled to 0° C. Benzyloxycarbonyl chloride (Cbz-Cl, 11.3 ml, 80.5 mmol, 1.15 eq) was added dropwise, and the reaction was warmed to room temperature and stirred for 18 hours. Water (200 mL) was added, and the resultant suspension was filtered to give a white solid. This solid was dissolved in methylene chloride, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide methyl 6-(benzyloxycarbonylamino)picolinate (17.5 g).

reactant | methyl 6-aminopicolinate | 70 mmol, 10.65 g, 1 eq | NC1=CC=CC(=N1)C(=O)OC | C7H8N2O2
reactant | sodium bicarbonate | 154 mmol, 13 g, 2.2 eq | C([O-])(O)=O.[Na+]
reactant | Benzyloxycarbonyl chloride | 80.5 mmol, 11.3 ml, 1.15 eq | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | Water | 200 mL | O | H2O
solvent | acetone water | 1M | CC(=O)C.O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 6-(benzyloxycarbonylamino)picolinate | 17.5 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=CC(=N1)C(=O)OC | C15H14N2O4
